US04628057
(3) (1RS,3SR)-trans-1-Methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
Methyl (1RS,3SR)-trans-1-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (2.44 g) is dissolved in methanol (30 ml), and thereto is added 1N NaOH (13 ml). The mixture is stirred at room temperature for 3 hours, and the solvent is distilled off under reduced pressure. The residue is dissolved in water and is acidified with 10% HCl. The precipitated crystals are collected by filtration, washed with water and dried to give the title compound (2.21 g, 90%) as colorless needles, m.p. 242°-244° C. (recrystallized from aqueous ethanol).

reactant | Methyl (1RS,3SR)-trans-1-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 2.44 g | C[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | C14H16N2O2
reactant | NaOH | 1N, 13 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (1RS,3SR)-trans-1-Methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | C[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C13H14N2O2
